US03954754
EXAMPLE 40: 3-Hydrazino-5,6,7,8-tetrahydro-6-pyrido [4,3-c]pyridazinecarboxylic acid allyl ester
The 3-chloro-5,6,7,8-tetrahydro-6-pyrido [4,3-c]pyridazinecarboxylic acid allyl ester, required as starting material, may be obtained in a manner analogous to that described in Example 8 (g), from 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate and chloroformic acid allyl ester. The oily crude product is used for the next reaction without purification.

reactant | 3-chloro-5,6,7,8-tetrahydro-6-pyrido [4,3-c]pyridazinecarboxylic acid allyl ester | C(C=C)OC(=O)N1CC2=C(N=NC(=C2)Cl)CC1 | C11H12ClN3O2
reactant | 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate | C(\C=C/C(=O)O)(=O)O.ClC1=CC2=C(N=N1)CCNC2
reactant | chloroformic acid allyl ester | C(C=C)OC(=O)Cl | C4H5ClO2
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-pyrido [4,3-c]pyridazinecarboxylic acid allyl ester | C(C=C)OC(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C11H15N5O2
